US09211281B2
Step 1. Benzyl 2-(cyclopropanecarbonyl)-2-methylhydrazinecarboxylate
Cyclopropanecarboxylic acid (600 mg, 6.97 mmol), DMAP (170 mg, 1.39 mmol) and EDC.HCl (1.19 g, 7.67 mmol) were added in that order to a stirred solution of benzyl 2-methylhydrazinecarboxylate hydrochloride (JOC, 2013, 78, 3541-3552.) (1.80 g, 8.37 mmol) in DCE (10 mL) and the reaction mixture was stirred at 25° C. for 12 h. Water was added to the reaction mixture and the mixture extracted with EtOAc. The organic layer was washed with brine, dried (Na2SO4), filtered, concentrated and the residue was purified by column chromatography on silica (100-200 mesh) eluting with 30% hexane in EtOAc to afford the title compound as a colourless gum (1.6 g, 80%): 1H NMR (300 MHz, DMSO-d6) δ10.01 (bs, 1H), 7.37 (s, 5H), 5.18 (s, 2H), 2.97 (s, 3H), 1.98-1.89 (m, 1H), 0.70-0.68 (m, 4H); ESIMS m/z 247.0 ([M−H]−); IR (thin film) 3502, 2928, 1736 cm−1.

reactant | Cyclopropanecarboxylic acid | 6.97 mmol, 600 mg | C1(CC1)C(=O)O | C4H6O2
reactant | EDC.HCl | 7.67 mmol, 1.19 g | CCN=C=NCCCN(C)C.Cl
reactant | benzyl 2-methylhydrazinecarboxylate hydrochloride | 8.37 mmol, 1.80 g | Cl.CNNC(=O)OCC1=CC=CC=C1
reactant | Water | O | H2O
catalyst | DMAP | 1.39 mmol, 170 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | Benzyl 2-(cyclopropanecarbonyl)-2-methylhydrazinecarboxylate | 1.6 g, 80% | C1(CC1)C(=O)N(NC(=O)OCC1=CC=CC=C1)C | C13H16N2O3
